US07160906B2
Methyl 6-[(3,5-di-acetoxybenzoyl)amino]-3-pyridinecarboxylate (6 g, 16.1 mM) was stirred at ambient temperature in THF (50 ml) and sodium methoxide solution (14.8 ml of 25% in methanol, 64.4 mM) added slowly. The resultant solution was stirred for one hour, poured into 1M hydrochloric acid and the pH adjusted to pH=4 with sodium bicarbonate solution, extracted with ethyl acetate, extracts combined, washed with brine and dried over anhydrous magnesium sulphate. The solvent was removed by distillation under reduced pressure to give a yellow solid. This solid was triturated with hot methanol, filtered, to give methyl 6-[(3,5-dihydroxybenzoyl)amino]-3-pyridinecarboxylate as a pale yellow solid (3.51 g, 77%); H1 NMR δ (d6-DMSO) 3.85 (3H s) 6.41 (1H s) 6.80 (2 H d)8.28 (2 Hm)8.85 (1 Hd)9.52 (2 H s)

reactant | Methyl 6-[(3,5-di-acetoxybenzoyl)amino]-3-pyridinecarboxylate | 16.1 mM, 6 g | C(C)(=O)OC=1C=C(C(=O)NC2=CC=C(C=N2)C(=O)OC)C=C(C1)OC(C)=O | C18H16N2O7
reactant | sodium methoxide | 64.4 mM, 14.8 ml | C[O-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 6-[(3,5-dihydroxybenzoyl)amino]-3-pyridinecarboxylate | 3.51 g, 77% | OC=1C=C(C(=O)NC2=CC=C(C=N2)C(=O)OC)C=C(C1)O | C14H12N2O5
